US06090839
Step C: Preparation of 4-(4-fluorophenoxy)phenyl allyl ether
A solution of 4-(4-fluorophenoxy) phenol (4.75 g, 23.30 mmol), potassium carbonate (4.17 g, 30.30 mmol) and allyl bromide (2.22 mL, 25.60 mmol) in DMF (50 mL) was stirred for 5 h at 60° C. After cooling, the reaction mixture was neutralized with 1 N HCL and extracted with ethyl acetate. The organic extract was washed with brine, dried over sodium sulfate, filtered and concentrated to afford an oil which was chromatographed on silica gel (15% ethyl acetate/hexane) to afford the title compound.

reactant | 4-(4-fluorophenoxy) phenol | 23.30 mmol, 4.75 g | FC1=CC=C(OC2=CC=C(C=C2)O)C=C1 | C12H9FO2
reactant | potassium carbonate | 30.30 mmol, 4.17 g | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 25.60 mmol, 2.22 mL | C(C=C)Br | C3H5Br
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 4-(4-fluorophenoxy)phenyl allyl ether | C(C=C)OC1=CC=C(C=C1)OC1=CC=C(C=C1)F | C15H13FO2
